US04916148
A solution of bromine (0.05 ml) in acetic acid (2 ml) was added over 5 minutes to a solution of 2-hydroxy-7-methyl-1-naphthylacetic acid (0.21 g) in acetic acid (5 ml). The solid which precipitated was collected and washed with acetic acid to give 7-bromo-8-methyl-2(1H)-naphtho[2,1-b]furanone, m.p. 238°-240°.

reactant | bromine | 0.05 ml | BrBr | Br2
reactant | 2-hydroxy-7-methyl-1-naphthylacetic acid | 0.21 g | OC1=C(C2=CC(=CC=C2C=C1)C)CC(=O)O | C13H12O3
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 7-bromo-8-methyl-2(1H)-naphtho[2,1-b]furanone | BrC=1C=C2C=CC=3OC(CC3C2=CC1C)=O | C13H9BrO2
